Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:17].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.60479605063
[H:1][C:2]([O:3][C:4]([H:5])[C:7](=[O:6])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([O:3][C@@:4]1([H:5])[O:6][C:7]1[H:8])[C:9]([H:10])([H:11])[H:12],1.99737399724
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2][O:3][C:4]([H:5])[O:7][C:8]([H:9])([H:10])[H:11].[H:6],4.14955983809
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[H:4],3.79763718985
[C:1]=[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[C:1]#[C:2][O:3][H:4].[C:5]([H:6])=[C:7]([H:8])[O:9][H:10],3.69081237092
[H:1][C:2]([H:3])=[C:4]([H:5])[C:13]([C@:7]([O:6])([H:8])[C:9]([H:10])([H:11])[H:12])([H:14])[H:15]>>[H:1][C:2]([H:3])[C@:4]1([H:5])[O:6][C@:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]1([H:14])[H:15],-0.0588095942303
[C:1][C:2]#[C:3][H:4]>>[C:1].[C:2]#[C:3][H:4],6.16336114744
[H:3].[O:1]=[C:2]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1][C@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-0.318332375837
[H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:14]([H:15])([H:16])[H:17]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.319489162180002
[H:1][O:2][C:3](=[C:4])[C:9]([C:5]=[C:6]([H:7])[H:8])([H:10])[H:11]>>[H:1][O:2][C:3]1[C:4][C:5](=[C:6]([H:7])[H:8])[C:9]1([H:10])[H:11],-2.86692862986
[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:6]([H:7])([H:8])=[C:9]([H:10])[H:11].[H:1][C:2][O:3][C:4]#[C:5],2.73132566123
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])[O:4][C:5][H:6],6.691446537490001
[H:13].[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])([H:12])[H:13],-4.10405884258
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]=[C:7]([H:8])[H:9]>>[C:3]([H:4])[O:5][C:6]=[C:7]([H:8])[H:9].[H:1][C:2],7.55785928791
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]1([H:13])[H:14],-1.96111691777
[C:1][C:2]#[C:3][C:6]([H:7])=[C:9]([H:10])[H:11].[C:4]([H:5])([H:8])[H:12]>>[C:1]#[C:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-3.23231875619
[H:1][C:2]=[C:3]([H:4])[O:6][C:7][O:8][C:9]([H:10])[H:11].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][C:9]([H:10])[H:11],-1.62325013259
[H:8].[O:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:9]([H:10])([H:11])[H:12]>>[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-1.7494501393200002
[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:9]#[C:10][H:11].[H:8],2.02963861057
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-3.91412778856
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][O:3][C:4]([H:5])[H:6].[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],3.6571185478400015
[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][H:3],3.82717565787
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],3.28347506847
[C:5]([H:6])([H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],1.72605591
[O:1]=[C:2]1[C:3][O:4][C@@:5]1([H:6])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],0.151091246931
[C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][O:3]>>[H:1][O:2][O:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.61681746976
[C:10]([H:11])([H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],1.25646437071
[C:1]#[C:2][H:3].[C:4](\[H:5])([O:6][H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-0.85415458546
